US05294713
(S)-4-Glycyl-2-oxopiperazine-1,3-diacetic acid di t-butyl ester hydrochloride
To a mixture of 3.7 g of (S)-2-oxopiperazine-1,3-diacetic acid di-t-butyl ester hydrochloride, 3.3 g of N-benzyloxycarbonyl glycine and 10 ml of dimethylformamide were added dropwise, while stirring at 0° C., 3.1 g of diethyl cyanophosphonate then 3.2 g of triethylamine in the course of 10 minutes. The mixture was stirred for one hour at the same temperature then for 3 hours at room temperature. The reaction mixture was poured into ice-water, which was subjected to extraction with ethyl acetate. The extract solution was dried over anhydrous magnesium sulfate and concentrated to give a crude product. The crude product was dissolved in 30 ml of methanol, to which were added 1 g of 10% palladium-carbon and 1.8 ml of 4N HCl-dioxane solution. The mixture was stirred for one hour at room temperature under hydrogen. The catalyst was removed, and the reaction mixture was concentrated under reduced pressure to afford 2.6 g of the title compound as a colorless oily product. This product was processed with ether to give colorless powder.

reactant | (S)-2-oxopiperazine-1,3-diacetic acid di-t-butyl ester hydrochloride | 3.7 g | Cl.C(C)(C)(C)OC(CN1C([C@@H](NCC1)CC(=O)OC(C)(C)C)=O)=O
reactant | N-benzyloxycarbonyl glycine | 3.3 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | diethyl cyanophosphonate | 3.1 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | HCl dioxane | 4N, 1.8 ml | Cl.O1CCOCC1
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium-carbon | 1 g | [C].[Pd]
solvent | triethylamine | 3.2 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-4-Glycyl-2-oxopiperazine-1,3-diacetic acid di t-butyl ester hydrochloride | 2.6 g | Cl.C(C)(C)(C)OC(CN1C([C@@H](N(CC1)C(CN)=O)CC(=O)OC(C)(C)C)=O)=O | InChI=1S/C18H31N3O6.ClH/c1-17(2,3)26-14(23)9-12-16(25)20(7-8-21(12)13(22)10-19)11-15(24)27-18(4,5)6;/h12H,7-11,19H2,1-6H3;1H/t12-;/m0./s1
